US06369002B1
Preparation of 3-((5-chloro-3-fluoro-pyridin-2-yl)-hydrazono)-1,1,1-trifluoropropan-2-one (intermediate)
6.75 g 1,1-dibromo-3,3,3-trifluoroacetone were stirred for 30 min. at 80° C. in a solution of 9.0 g sodium acetate in 250 ml water. Then the solution was cooled at 0° C. and 4.0 g 2-hydrazino-3-fluoro-5-chloropyridin were added. Stirring was continued for 3.5 hrs. Then the reaction mixture was extracted with ethyl acetate, the extracts were washed with water and dried. After evaporation, the remaining residue was purified on silcagel (hexane-ethyl acetate 8:2) to give the title compound as brownish residue which was directly used for the next step. MS: (M−H )=268.

reactant | 1,1-dibromo-3,3,3-trifluoroacetone | 6.75 g | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | sodium acetate | 9.0 g | C(C)(=O)[O-].[Na+]
reactant | 2-hydrazino-3-fluoro-5-chloropyridin | 4.0 g | N(N)C1=NC=C(C=C1F)Cl | C5H5ClFN3
solvent | water | 250 ml | O | H2O
product | 3-((5-chloro-3-fluoro-pyridin-2-yl)-hydrazono)-1,1,1-trifluoropropan-2-one | ClC=1C=C(C(=NC1)NN=CC(C(F)(F)F)=O)F | C8H4ClF4N3O
